US06734184B1
To a solution 2-(4-piperidinyloxy)-5-chloropyridine(12.9 g, 0.06 mol) and Et3N (25.4 ml, 0.182 mol) in dry dichloromethane (400 ml) at 0° C. and under Argon, was added methanesulfonyl chloride (5.3 ml, 0.067 mol) in dry dichloromethane (100 ml), dropwise. The mixture was stirred for 20 hours at room temperature. The mixture was diluted with dichloromethane (250 ml), then washed with water (×3) then brine. The organic layers were dried with Na2SO4 and evaporated in vacuo. The residue was triturated and washed with diethylether to give 2-(N-methanesulfonyl-4-piperidinyloxy)-5-chloropyridine (15.1 g) as a pale yellow solid.

reactant | 2-(4-piperidinyloxy)-5-chloropyridine | 0.06 mol, 12.9 g | N1CCC(CC1)OC1=NC=C(C=C1)Cl | C10H13ClN2O
reactant | Et3N | 0.182 mol, 25.4 ml | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.067 mol, 5.3 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-(N-methanesulfonyl-4-piperidinyloxy)-5-chloropyridine | 15.1 g | CS(=O)(=O)N1CCC(CC1)OC1=NC=C(C=C1)Cl | C11H15ClN2O3S
